US04049669
A solution of 75 ml. of 33% methylamine in ethanol is added to a solution of the N-cyano-N'-[2-(4-methyl-5-thiazolylmethylthio)ethyl]-S-methylisothiourea prepared above in 30 ml. of ethanol. The reaction mixture is set aside at ambient temperature for 2.5 hours, and the precipitate is collected to give N-cyano-N'-methyl-N"-[2-(4-methyl-5-thiazolylmethylthio)ethyl]guanidine.

reactant | methylamine | CN | CH5N
reactant | N-cyano-N'-[2-(4-methyl-5-thiazolylmethylthio)ethyl]-S-methylisothiourea | C(#N)NC(SC)=NCCSCC1=C(N=CS1)C | C10H14N4S3
solvent | ethanol | C(C)O | C2H6O
product | N-cyano-N'-methyl-N"-[2-(4-methyl-5-thiazolylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC1=C(N=CS1)C)NC | C10H15N5S2
